Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Heavy vaginal bleeding, anemia
 
Major Surgical or Invasive Procedure:
Blood transfusion
 
History of Present Illness:
___ G6P6 with h/o fibroids presents with two days of
increasing suprapubic pain and worsening VB. The patient began
noticing the pain yesterday morning ___, assoc'd w nausea and
vomiting. The pain increased through the day. Today, onset of
subjective fever, lightheadedness, pleuritic chest pain and
dyspnea on exertion. Reports LMP ___ and usually bleeds for
___ days. Changes pad every ___ hours. Not yet getting hot
flashes and reports regular menstrual cycles. Last sexually
active more than ___ years ago. Denies recent weight changes,
abnormal discharge, nausea, vomiting, changes in bowel or 
bladder
habits. Currently denies CP/SOB. She has changed 3 pads since
being in the ED i.e 12 hours. Endorses dizziness while lying 
down
and this worsens when she sits.
 
Past Medical History:
PMH: Denies history  of heart or respiratory disease,
hypertension, thromboembolic disease, cancer history.

PSH: denies
 
POBHx: 
- 1 x LTCS
- 5 x SVD

PGYNHx:
LMP: ___
Intermenstrual bleeding: denies
Dysmenorrhea: moderate
Fibroids: diagnosed about a year ago
Cysts: denies
STIs: denies
Sexually active: has not been active for some years
Contraception: n/a
Last pap: ___, normal per patient
 
Physical Exam:
Gen NAD
CV regular rate
Pulm nl respiratory effort
Abd soft, enlarged uterus approx. 1cm below umbilicus, minimal 
TTP at the fundus along midline. no R/G
GU pad 20% saturated
Ext no calf tenderness/edema

 
Pertinent Results:
___ 03:55PM BLOOD WBC-7.8 RBC-3.60* Hgb-8.1* Hct-28.6* 
MCV-79* MCH-22.5* MCHC-28.3* RDW-15.8* RDWSD-45.7 Plt ___
___ 03:55AM BLOOD WBC-10.0 RBC-3.39* Hgb-7.5* Hct-26.9* 
MCV-79* MCH-22.1* MCHC-27.9* RDW-15.5 RDWSD-45.0 Plt ___
___ 12:01AM BLOOD WBC-9.6 RBC-3.24* Hgb-7.2* Hct-25.3* 
MCV-78* MCH-22.2* MCHC-28.5* RDW-15.5 RDWSD-44.0 Plt ___
___ 05:05PM BLOOD WBC-8.2 RBC-3.75* Hgb-8.3* Hct-29.4* 
MCV-78* MCH-22.1* MCHC-28.2* RDW-15.5 RDWSD-44.1 Plt ___
___ 03:55AM BLOOD Neuts-76.3* Lymphs-13.4* Monos-8.6 
Eos-0.8* Baso-0.3 Im ___ AbsNeut-7.64* AbsLymp-1.34 
AbsMono-0.86* AbsEos-0.08 AbsBaso-0.03
___ 05:05PM BLOOD Glucose-108* UreaN-6 Creat-0.7 Na-140 
K-4.4 Cl-100 HCO3-28 AnGap-12
___ 05:05PM BLOOD D-Dimer-3150*

CTA IMPRESSION:    
1.  Fibroid uterus.  A dominant posterior fundal fibroid 
demonstrates 
heterogeneously enhancement with more central areas of 
hypoenhancement 
suggestive of degeneration and may be the source of the 
patient's acute pain. 
2.  Markedly dilated gonadal veins can be seen with pelvic 
congestion syndrome 
and clinical correlation is needed. 
3.  No pulmonary embolism or acute aortic pathology. 
4.  Main pulmonary artery is dilated to 3.9 cm which can be seen 
with 
pulmonary arterial hypertension. 
5.  Mild splenomegaly. 
  
ULTRASOUND
FINDINGS: The uterus is anteverted. The uterus is enlarged 
measuring 18.7 x 10.4 x 13.7 cm.  The myometrium demonstrates 
linear bands of echogenicity and shadowing, which is compatible 
with adenomyosis.  A single subserosal fibroid is present on the 
right and measures 3.4 x 3.2 x 2.2 cm.  Assessment of the 
endometrium is limited, but where seen measures 7 mm.  The right 
ovary is not seen.  The left ovary i unremarkable.  There is no 
free fluid. 
IMPRESSION:    Enlarged uterus consistent with adenomyosis.  
There is a single subserosal 
fibroid on the right measuring up to 3.4 cm.  Nonvisualized 
right ovary.  
Unremarkable left ovary. 

 
Brief Hospital Course:
Ms. ___ was admitted with degenerating fibroids and 
adenomyosis p/w diffuse
abdominal pain and acute blood loss anemia in the setting of 
worsening menorrhagia. 
She was admitted for close monitoring and blood transfusion. She 
received one unit of packed RBCs. Post-transfusion hematocrit 
was 28.6. 

She also have a fever of 100.4 on presentation, thought to be 
due to degenerating fibroid. She defervesced without medication. 
WBC, urinalysis were both within normal limits. 

She was stable and her symptoms improved. She was discharged 
home with a course of Indocin for fibroid pain and scheduled for 
close follow up.
 
Medications on Admission:
None
 
Discharge Medications:
1.  Indomethacin 25 mg PO TID:PRN Pain - Moderate 
take with food. 
RX *indomethacin 25 mg 1 capsule(s) by mouth every 8 hours Disp 
#*10 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Degenerating fibroid

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Gynecology Service with pelvic pain and 
heavy menstrual bleeding. Your pain was likely due to a 
degenerating fibroid. You received pain medications as well as a 
blood transfusion, with improvement in your symptoms.

Please follow these instructions:
* take your indomethacin (NSAID) as prescribed.
* do not take more than 4000mg acetaminophen (tylenol) in 24 hrs
* you may eat a regular diet
* you may resume regular activities

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

 
Followup Instructions:
___